* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 75.0
Gd1_1 0 s1 p1 0 -0.003207783403976066
Fd1_1 0 s1 V1 -0.24058375529820503
Gr1_1_1 0 s1 x1_a1 0 866886624.0046815
Gr2_re_1_1 0 s1 x2_re_a1 0 58811628.257922985
Gr2_im_1_1 0 s1 x2_im_a1 0 -6266903.111695614
Gr3_re_1_1 0 s1 x3_re_a1 0 50948939.71105576
Gr3_im_1_1 0 s1 x3_im_a1 0 -120225797.79168028
Gr4_re_1_1 0 s1 x4_re_a1 0 -137153279.02014035
Gr4_im_1_1 0 s1 x4_im_a1 0 23621065.610896852
Gr5_re_1_1 0 s1 x5_re_a1 0 21687528.56354686
Gr5_im_1_1 0 s1 x5_im_a1 0 56758448.89727416
Gr6_re_1_1 0 s1 x6_re_a1 0 -139157647.0272212
Gr6_im_1_1 0 s1 x6_im_a1 0 69260375.36602674
Gr7_re_1_1 0 s1 x7_re_a1 0 341472229.61356294
Gr7_im_1_1 0 s1 x7_im_a1 0 307612733.33722353
Gr8_re_1_1 0 s1 x8_re_a1 0 -168385480.31808403
Gr8_im_1_1 0 s1 x8_im_a1 0 69813466.52174754
Gd1_2 0 s1 p2 0 0.00468575799626394
Fd1_2 0 s1 V2 0.3514318497197956
Gr1_1_2 0 s1 x1_a2 0 -4611729394.507706
Gr2_re_1_2 0 s1 x2_re_a2 0 93297847.63763084
Gr2_im_1_2 0 s1 x2_im_a2 0 -17644776.270269502
Gr3_re_1_2 0 s1 x3_re_a2 0 88956824.96409215
Gr3_im_1_2 0 s1 x3_im_a2 0 -15280825.23982543
Gr4_re_1_2 0 s1 x4_re_a2 0 296804466.96922165
Gr4_im_1_2 0 s1 x4_im_a2 0 39131780.394313596
Gr5_re_1_2 0 s1 x5_re_a2 0 266878717.85514885
Gr5_im_1_2 0 s1 x5_im_a2 0 -118980896.9119798
Gr6_re_1_2 0 s1 x6_re_a2 0 320592160.29112333
Gr6_im_1_2 0 s1 x6_im_a2 0 -515482649.32687616
Gr7_re_1_2 0 s1 x7_re_a2 0 -278351176.4515102
Gr7_im_1_2 0 s1 x7_im_a2 0 -168657882.5732505
Gr8_re_1_2 0 s1 x8_re_a2 0 31331341.63501326
Gr8_im_1_2 0 s1 x8_im_a2 0 -293686877.8770082
Gd1_3 0 s1 p3 0 0.004823993320169609
Fd1_3 0 s1 V3 0.36179949901272074
Gr1_1_3 0 s1 x1_a3 0 -1368621553.1529267
Gr2_re_1_3 0 s1 x2_re_a3 0 119561323.68338005
Gr2_im_1_3 0 s1 x2_im_a3 0 -105961227.64319104
Gr3_re_1_3 0 s1 x3_re_a3 0 94078554.41529524
Gr3_im_1_3 0 s1 x3_im_a3 0 -186841295.05460396
Gr4_re_1_3 0 s1 x4_re_a3 0 -81362685.78951275
Gr4_im_1_3 0 s1 x4_im_a3 0 -573602448.1930741
Gr5_re_1_3 0 s1 x5_re_a3 0 -330604310.52639294
Gr5_im_1_3 0 s1 x5_im_a3 0 10934240.162381902
Gr6_re_1_3 0 s1 x6_re_a3 0 -182255642.1775837
Gr6_im_1_3 0 s1 x6_im_a3 0 64461603.01269828
Gr7_re_1_3 0 s1 x7_re_a3 0 -39587386.2771834
Gr7_im_1_3 0 s1 x7_im_a3 0 71067322.41826677
Gr8_re_1_3 0 s1 x8_re_a3 0 -51445511.881126024
Gr8_im_1_3 0 s1 x8_im_a3 0 5579954.868015244
Gd1_4 0 s1 p4 0 0.006229081131984698
Fd1_4 0 s1 V4 0.46718108489885246
Gr1_1_4 0 s1 x1_a4 0 -3505839232.943515
Gr2_re_1_4 0 s1 x2_re_a4 0 165154106.20694986
Gr2_im_1_4 0 s1 x2_im_a4 0 -277886784.31009525
Gr3_re_1_4 0 s1 x3_re_a4 0 -28472238.995305244
Gr3_im_1_4 0 s1 x3_im_a4 0 -210621611.42236468
Gr4_re_1_4 0 s1 x4_re_a4 0 -22461986.479047198
Gr4_im_1_4 0 s1 x4_im_a4 0 -271248613.29402375
Gr5_re_1_4 0 s1 x5_re_a4 0 -81591875.92460836
Gr5_im_1_4 0 s1 x5_im_a4 0 -98656992.4530048
Gr6_re_1_4 0 s1 x6_re_a4 0 -67282237.59417406
Gr6_im_1_4 0 s1 x6_im_a4 0 -132788973.51641317
Gr7_re_1_4 0 s1 x7_re_a4 0 -86557343.30189784
Gr7_im_1_4 0 s1 x7_im_a4 0 -66235722.43529372
Gr8_re_1_4 0 s1 x8_re_a4 0 162613.93264946024
Gr8_im_1_4 0 s1 x8_im_a4 0 -59685614.16991033
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.05773502691896257
Fx1_a1 0 x1_a1 V1 4.330127018922194
Rp1_a1 0 x1_a1 9.46465545684329e-11
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.11547005383792514
Fx2_re_a1 0 x2_re_a1 V1 8.660254037844387
Rp2_re_re_a1 0 x2_re_a1 8.848850411866024e-10
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 17000973704.580889
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -17000973704.580889
Rp2_im_im_a1 0 x2_im_a1 8.848850411866024e-10
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.11547005383792514
Fx3_re_a1 0 x3_re_a1 V1 8.660254037844387
Rp3_re_re_a1 0 x3_re_a1 1.0334376975442945e-09
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 14603634762.750225
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -14603634762.750225
Rp3_im_im_a1 0 x3_im_a1 1.0334376975442945e-09
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.11547005383792514
Fx4_re_a1 0 x4_re_a1 V1 8.660254037844387
Rp4_re_re_a1 0 x4_re_a1 7.910648080983229e-10
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 11945203492.30834
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -11945203492.30834
Rp4_im_im_a1 0 x4_im_a1 7.910648080983229e-10
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.11547005383792514
Fx5_re_a1 0 x5_re_a1 V1 8.660254037844387
Rp5_re_re_a1 0 x5_re_a1 1.1891447076874123e-09
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 10200506965.6328
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -10200506965.6328
Rp5_im_im_a1 0 x5_im_a1 1.1891447076874123e-09
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.11547005383792514
Fx6_re_a1 0 x6_re_a1 V1 8.660254037844387
Rp6_re_re_a1 0 x6_re_a1 9.421536393962632e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 8120952365.50076
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -8120952365.50076
Rp6_im_im_a1 0 x6_im_a1 9.421536393962632e-10
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.11547005383792514
Fx7_re_a1 0 x7_re_a1 V1 8.660254037844387
Rp7_re_re_a1 0 x7_re_a1 9.556484372218097e-10
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 4953118963.950997
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -4953118963.950997
Rp7_im_im_a1 0 x7_im_a1 9.556484372218097e-10
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.11547005383792514
Fx8_re_a1 0 x8_re_a1 V1 8.660254037844387
Rp8_re_re_a1 0 x8_re_a1 1.646744604919737e-09
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 6072501587.75218
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -6072501587.75218
Rp8_im_im_a1 0 x8_im_a1 1.646744604919737e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 75.0
Gd2_1 0 s2 p1 0 0.00468736040734634
Fd2_1 0 s2 V1 0.35155203055097556
Gr1_2_1 0 s2 x1_a1 0 -4611665724.134415
Gr2_re_2_1 0 s2 x2_re_a1 0 93314461.49934873
Gr2_im_2_1 0 s2 x2_im_a1 0 -17674553.030797105
Gr3_re_2_1 0 s2 x3_re_a1 0 88959356.98315689
Gr3_im_2_1 0 s2 x3_im_a1 0 -15307731.086423196
Gr4_re_2_1 0 s2 x4_re_a1 0 296883246.90068454
Gr4_im_2_1 0 s2 x4_im_a1 0 39054015.99151359
Gr5_re_2_1 0 s2 x5_re_a1 0 266870905.2150705
Gr5_im_2_1 0 s2 x5_im_a1 0 -119139909.75249708
Gr6_re_2_1 0 s2 x6_re_a1 0 320322251.0940656
Gr6_im_2_1 0 s2 x6_im_a1 0 -515578155.48016876
Gr7_re_2_1 0 s2 x7_re_a1 0 -278343473.6846889
Gr7_im_2_1 0 s2 x7_im_a1 0 -168526653.84509632
Gr8_re_2_1 0 s2 x8_re_a1 0 31216228.582915176
Gr8_im_2_1 0 s2 x8_im_a1 0 -293641873.02807325
Gd2_2 0 s2 p2 0 0.0019829418245824702
Fd2_2 0 s2 V2 0.1487206368436853
Gr1_2_2 0 s2 x1_a2 0 -2846247419.775178
Gr2_re_2_2 0 s2 x2_re_a2 0 89104004.5318574
Gr2_im_2_2 0 s2 x2_im_a2 0 265892026.55441517
Gr3_re_2_2 0 s2 x3_re_a2 0 -107041711.91107021
Gr3_im_2_2 0 s2 x3_im_a2 0 45621444.02927622
Gr4_re_2_2 0 s2 x4_re_a2 0 135613866.5594927
Gr4_im_2_2 0 s2 x4_im_a2 0 -126421917.56715164
Gr5_re_2_2 0 s2 x5_re_a2 0 127641773.57244974
Gr5_im_2_2 0 s2 x5_im_a2 0 227529571.94882718
Gr6_re_2_2 0 s2 x6_re_a2 0 296470663.6679568
Gr6_im_2_2 0 s2 x6_im_a2 0 48448360.38026488
Gr7_re_2_2 0 s2 x7_re_a2 0 408194677.2549845
Gr7_im_2_2 0 s2 x7_im_a2 0 -490557569.89600813
Gr8_re_2_2 0 s2 x8_re_a2 0 163830404.48895365
Gr8_im_2_2 0 s2 x8_im_a2 0 186841289.51125395
Gd2_3 0 s2 p3 0 -7.01390798586325e-05
Fd2_3 0 s2 V3 -0.005260430989397438
Gr1_2_3 0 s2 x1_a3 0 27252173.295580614
Gr2_re_2_3 0 s2 x2_re_a3 0 -1116384.142416954
Gr2_im_2_3 0 s2 x2_im_a3 0 2990060.163289373
Gr3_re_2_3 0 s2 x3_re_a3 0 -163740.8294859307
Gr3_im_2_3 0 s2 x3_im_a3 0 1943371.099358059
Gr4_re_2_3 0 s2 x4_re_a3 0 612474.8321075492
Gr4_im_2_3 0 s2 x4_im_a3 0 5818238.938301548
Gr5_re_2_3 0 s2 x5_re_a3 0 5942539.518737867
Gr5_im_2_3 0 s2 x5_im_a3 0 -936326.5199092211
Gr6_re_2_3 0 s2 x6_re_a3 0 229019.51948969942
Gr6_im_2_3 0 s2 x6_im_a3 0 -3784023.241263447
Gr7_re_2_3 0 s2 x7_re_a3 0 -1906850.0925512637
Gr7_im_2_3 0 s2 x7_im_a3 0 5560382.919753779
Gr8_re_2_3 0 s2 x8_re_a3 0 -1573465.9010153422
Gr8_im_2_3 0 s2 x8_im_a3 0 -3245415.033933994
Gd2_4 0 s2 p4 0 3.860302552499548e-06
Fd2_4 0 s2 V4 0.00028952269143746616
Gr1_2_4 0 s2 x1_a4 0 -8772752.491894683
Gr2_re_2_4 0 s2 x2_re_a4 0 379734.5443317968
Gr2_im_2_4 0 s2 x2_im_a4 0 695524.2544585946
Gr3_re_2_4 0 s2 x3_re_a4 0 1251043.3986389625
Gr3_im_2_4 0 s2 x3_im_a4 0 88442.26468595832
Gr4_re_2_4 0 s2 x4_re_a4 0 -94556.56142923718
Gr4_im_2_4 0 s2 x4_im_a4 0 -2270069.2647544183
Gr5_re_2_4 0 s2 x5_re_a4 0 201732.43898133514
Gr5_im_2_4 0 s2 x5_im_a4 0 601535.9582164648
Gr6_re_2_4 0 s2 x6_re_a4 0 1928305.9211636633
Gr6_im_2_4 0 s2 x6_im_a4 0 -399179.13884055335
Gr7_re_2_4 0 s2 x7_re_a4 0 -4337919.480815308
Gr7_im_2_4 0 s2 x7_im_a4 0 -3763676.8138252296
Gr8_re_2_4 0 s2 x8_re_a4 0 1643419.2161184282
Gr8_im_2_4 0 s2 x8_im_a4 0 -1260412.6712656699
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.05773502691896257
Fx1_a2 0 x1_a2 V2 4.330127018922194
Rp1_a2 0 x1_a2 9.46465545684329e-11
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.11547005383792514
Fx2_re_a2 0 x2_re_a2 V2 8.660254037844387
Rp2_re_re_a2 0 x2_re_a2 8.848850411866024e-10
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 17000973704.580889
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -17000973704.580889
Rp2_im_im_a2 0 x2_im_a2 8.848850411866024e-10
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.11547005383792514
Fx3_re_a2 0 x3_re_a2 V2 8.660254037844387
Rp3_re_re_a2 0 x3_re_a2 1.0334376975442945e-09
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 14603634762.750225
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -14603634762.750225
Rp3_im_im_a2 0 x3_im_a2 1.0334376975442945e-09
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.11547005383792514
Fx4_re_a2 0 x4_re_a2 V2 8.660254037844387
Rp4_re_re_a2 0 x4_re_a2 7.910648080983229e-10
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 11945203492.30834
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -11945203492.30834
Rp4_im_im_a2 0 x4_im_a2 7.910648080983229e-10
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.11547005383792514
Fx5_re_a2 0 x5_re_a2 V2 8.660254037844387
Rp5_re_re_a2 0 x5_re_a2 1.1891447076874123e-09
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 10200506965.6328
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -10200506965.6328
Rp5_im_im_a2 0 x5_im_a2 1.1891447076874123e-09
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.11547005383792514
Fx6_re_a2 0 x6_re_a2 V2 8.660254037844387
Rp6_re_re_a2 0 x6_re_a2 9.421536393962632e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 8120952365.50076
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -8120952365.50076
Rp6_im_im_a2 0 x6_im_a2 9.421536393962632e-10
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.11547005383792514
Fx7_re_a2 0 x7_re_a2 V2 8.660254037844387
Rp7_re_re_a2 0 x7_re_a2 9.556484372218097e-10
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 4953118963.950997
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -4953118963.950997
Rp7_im_im_a2 0 x7_im_a2 9.556484372218097e-10
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.11547005383792514
Fx8_re_a2 0 x8_re_a2 V2 8.660254037844387
Rp8_re_re_a2 0 x8_re_a2 1.646744604919737e-09
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 6072501587.75218
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -6072501587.75218
Rp8_im_im_a2 0 x8_im_a2 1.646744604919737e-09
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 75.0
Gd3_1 0 s3 p1 0 0.00481345751575533
Fd3_1 0 s3 V1 0.36100931368164985
Gr1_3_1 0 s3 x1_a1 0 -1362761510.583802
Gr2_re_3_1 0 s3 x2_re_a1 0 119236693.74704887
Gr2_im_3_1 0 s3 x2_im_a1 0 -105866840.95994872
Gr3_re_3_1 0 s3 x3_re_a1 0 93676704.62206295
Gr3_im_3_1 0 s3 x3_im_a1 0 -186515504.80121168
Gr4_re_3_1 0 s3 x4_re_a1 0 -81675378.29174426
Gr4_im_3_1 0 s3 x4_im_a1 0 -572507513.2233887
Gr5_re_3_1 0 s3 x5_re_a1 0 -330109237.172891
Gr5_im_3_1 0 s3 x5_im_a1 0 11258157.64044839
Gr6_re_3_1 0 s3 x6_re_a1 0 -181929403.88835654
Gr6_im_3_1 0 s3 x6_im_a1 0 64652242.95688557
Gr7_re_3_1 0 s3 x7_re_a1 0 -39393060.82822632
Gr7_im_3_1 0 s3 x7_im_a1 0 71093180.25694445
Gr8_re_3_1 0 s3 x8_re_a1 0 -51387799.61600544
Gr8_im_3_1 0 s3 x8_im_a1 0 5672728.2346958425
Gd3_2 0 s3 p2 0 -7.0091722191848e-05
Fd3_2 0 s3 V2 -0.005256879164388601
Gr1_3_2 0 s3 x1_a2 0 27184099.263744175
Gr2_re_3_2 0 s3 x2_re_a2 0 -1124036.3057045438
Gr2_im_3_2 0 s3 x2_im_a2 0 3001593.8974006833
Gr3_re_3_2 0 s3 x3_re_a2 0 -157210.07018177328
Gr3_im_3_2 0 s3 x3_im_a2 0 1946101.30076074
Gr4_re_3_2 0 s3 x4_re_a2 0 620177.813826966
Gr4_im_3_2 0 s3 x4_im_a2 0 5825212.088239841
Gr5_re_3_2 0 s3 x5_re_a2 0 5952499.980044226
Gr5_im_3_2 0 s3 x5_im_a2 0 -941621.2420023308
Gr6_re_3_2 0 s3 x6_re_a2 0 230630.43800659594
Gr6_im_3_2 0 s3 x6_im_a2 0 -3784194.667196278
Gr7_re_3_2 0 s3 x7_re_a2 0 -1913062.7097073584
Gr7_im_3_2 0 s3 x7_im_a2 0 5555271.872947938
Gr8_re_3_2 0 s3 x8_re_a2 0 -1563294.0542545842
Gr8_im_3_2 0 s3 x8_im_a2 0 -3249257.226700719
Gd3_3 0 s3 p3 0 -0.0005816865026278903
Fd3_3 0 s3 V3 -0.043626487697091786
Gr1_3_3 0 s3 x1_a3 0 -2716588879.981069
Gr2_re_3_3 0 s3 x2_re_a3 0 -15606636.751233283
Gr2_im_3_3 0 s3 x2_im_a3 0 -185405506.0668391
Gr3_re_3_3 0 s3 x3_re_a3 0 245904392.96300244
Gr3_im_3_3 0 s3 x3_im_a3 0 -3477309.319426491
Gr4_re_3_3 0 s3 x4_re_a3 0 111926635.50630634
Gr4_im_3_3 0 s3 x4_im_a3 0 -155288443.26562113
Gr5_re_3_3 0 s3 x5_re_a3 0 -27592798.53623384
Gr5_im_3_3 0 s3 x5_im_a3 0 -148844967.54179624
Gr6_re_3_3 0 s3 x6_re_a3 0 26044048.63059017
Gr6_im_3_3 0 s3 x6_im_a3 0 290438249.6324222
Gr7_re_3_3 0 s3 x7_re_a3 0 416477960.3357081
Gr7_im_3_3 0 s3 x7_im_a3 0 -83772734.98148914
Gr8_re_3_3 0 s3 x8_re_a3 0 -22244058.81930734
Gr8_im_3_3 0 s3 x8_im_a3 0 -60032374.33294976
Gd3_4 0 s3 p4 0 -8.137301226173489e-05
Fd3_4 0 s3 V4 -0.006102975919630118
Gr1_3_4 0 s3 x1_a4 0 34171102.13103482
Gr2_re_3_4 0 s3 x2_re_a4 0 -1681392.4167764971
Gr2_im_3_4 0 s3 x2_im_a4 0 2902106.3712548763
Gr3_re_3_4 0 s3 x3_re_a4 0 1034290.9936160774
Gr3_im_3_4 0 s3 x3_im_a4 0 3975810.1300042407
Gr4_re_3_4 0 s3 x4_re_a4 0 978080.9668113734
Gr4_im_3_4 0 s3 x4_im_a4 0 3770542.5391794583
Gr5_re_3_4 0 s3 x5_re_a4 0 2302031.1984949857
Gr5_im_3_4 0 s3 x5_im_a4 0 212468.1116405279
Gr6_re_3_4 0 s3 x6_re_a4 0 1694318.115647516
Gr6_im_3_4 0 s3 x6_im_a4 0 -320970.8582952174
Gr7_re_3_4 0 s3 x7_re_a4 0 -785961.000794664
Gr7_im_3_4 0 s3 x7_im_a4 0 521200.64789706
Gr8_re_3_4 0 s3 x8_re_a4 0 201660.3699898782
Gr8_im_3_4 0 s3 x8_im_a4 0 256402.23518939049
*
* State networks driven by port 3
Cx1_a3 x1_a3 0 1.0
Gx1_a3 0 x1_a3 p3 0 0.05773502691896257
Fx1_a3 0 x1_a3 V3 4.330127018922194
Rp1_a3 0 x1_a3 9.46465545684329e-11
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.11547005383792514
Fx2_re_a3 0 x2_re_a3 V3 8.660254037844387
Rp2_re_re_a3 0 x2_re_a3 8.848850411866024e-10
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 17000973704.580889
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -17000973704.580889
Rp2_im_im_a3 0 x2_im_a3 8.848850411866024e-10
Cx3_re_a3 x3_re_a3 0 1.0
Gx3_re_a3 0 x3_re_a3 p3 0 0.11547005383792514
Fx3_re_a3 0 x3_re_a3 V3 8.660254037844387
Rp3_re_re_a3 0 x3_re_a3 1.0334376975442945e-09
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 14603634762.750225
Cx3_im_a3 x3_im_a3 0 1.0
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -14603634762.750225
Rp3_im_im_a3 0 x3_im_a3 1.0334376975442945e-09
Cx4_re_a3 x4_re_a3 0 1.0
Gx4_re_a3 0 x4_re_a3 p3 0 0.11547005383792514
Fx4_re_a3 0 x4_re_a3 V3 8.660254037844387
Rp4_re_re_a3 0 x4_re_a3 7.910648080983229e-10
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 11945203492.30834
Cx4_im_a3 x4_im_a3 0 1.0
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -11945203492.30834
Rp4_im_im_a3 0 x4_im_a3 7.910648080983229e-10
Cx5_re_a3 x5_re_a3 0 1.0
Gx5_re_a3 0 x5_re_a3 p3 0 0.11547005383792514
Fx5_re_a3 0 x5_re_a3 V3 8.660254037844387
Rp5_re_re_a3 0 x5_re_a3 1.1891447076874123e-09
Gp5_re_im_a3 0 x5_re_a3 x5_im_a3 0 10200506965.6328
Cx5_im_a3 x5_im_a3 0 1.0
Gp5_im_re_a3 0 x5_im_a3 x5_re_a3 0 -10200506965.6328
Rp5_im_im_a3 0 x5_im_a3 1.1891447076874123e-09
Cx6_re_a3 x6_re_a3 0 1.0
Gx6_re_a3 0 x6_re_a3 p3 0 0.11547005383792514
Fx6_re_a3 0 x6_re_a3 V3 8.660254037844387
Rp6_re_re_a3 0 x6_re_a3 9.421536393962632e-10
Gp6_re_im_a3 0 x6_re_a3 x6_im_a3 0 8120952365.50076
Cx6_im_a3 x6_im_a3 0 1.0
Gp6_im_re_a3 0 x6_im_a3 x6_re_a3 0 -8120952365.50076
Rp6_im_im_a3 0 x6_im_a3 9.421536393962632e-10
Cx7_re_a3 x7_re_a3 0 1.0
Gx7_re_a3 0 x7_re_a3 p3 0 0.11547005383792514
Fx7_re_a3 0 x7_re_a3 V3 8.660254037844387
Rp7_re_re_a3 0 x7_re_a3 9.556484372218097e-10
Gp7_re_im_a3 0 x7_re_a3 x7_im_a3 0 4953118963.950997
Cx7_im_a3 x7_im_a3 0 1.0
Gp7_im_re_a3 0 x7_im_a3 x7_re_a3 0 -4953118963.950997
Rp7_im_im_a3 0 x7_im_a3 9.556484372218097e-10
Cx8_re_a3 x8_re_a3 0 1.0
Gx8_re_a3 0 x8_re_a3 p3 0 0.11547005383792514
Fx8_re_a3 0 x8_re_a3 V3 8.660254037844387
Rp8_re_re_a3 0 x8_re_a3 1.646744604919737e-09
Gp8_re_im_a3 0 x8_re_a3 x8_im_a3 0 6072501587.75218
Cx8_im_a3 x8_im_a3 0 1.0
Gp8_im_re_a3 0 x8_im_a3 x8_re_a3 0 -6072501587.75218
Rp8_im_im_a3 0 x8_im_a3 1.646744604919737e-09
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 75.0
Gd4_1 0 s4 p1 0 0.00621401659826409
Fd4_1 0 s4 V1 0.4660512448698069
Gr1_4_1 0 s4 x1_a1 0 -3501535685.7732472
Gr2_re_4_1 0 s4 x2_re_a1 0 165229098.01197672
Gr2_im_4_1 0 s4 x2_im_a1 0 -277371212.5448816
Gr3_re_4_1 0 s4 x3_re_a1 0 -28268811.959830616
Gr3_im_4_1 0 s4 x3_im_a1 0 -210371377.50134104
Gr4_re_4_1 0 s4 x4_re_a1 0 -22215864.192513105
Gr4_im_4_1 0 s4 x4_im_a1 0 -270938933.70549273
Gr5_re_4_1 0 s4 x5_re_a1 0 -81421567.00834279
Gr5_im_4_1 0 s4 x5_im_a1 0 -98614561.73048751
Gr6_re_4_1 0 s4 x6_re_a1 0 -67128454.01065439
Gr6_im_4_1 0 s4 x6_im_a1 0 -132695312.48509242
Gr7_re_4_1 0 s4 x7_re_a1 0 -86409087.87031426
Gr7_im_4_1 0 s4 x7_im_a1 0 -66230208.96919609
Gr8_re_4_1 0 s4 x8_re_a1 0 197760.05041683142
Gr8_im_4_1 0 s4 x8_im_a1 0 -59620823.67657997
Gd4_2 0 s4 p2 0 3.8387387396565295e-06
Fd4_2 0 s4 V2 0.0002879054054742398
Gr1_4_2 0 s4 x1_a2 0 -8684695.95699262
Gr2_re_4_2 0 s4 x2_re_a2 0 379140.3683987091
Gr2_im_4_2 0 s4 x2_im_a2 0 697359.4414866018
Gr3_re_4_2 0 s4 x3_re_a2 0 1251558.4650927323
Gr3_im_4_2 0 s4 x3_im_a2 0 87218.40672559883
Gr4_re_4_2 0 s4 x4_re_a2 0 -101977.81913708686
Gr4_im_4_2 0 s4 x4_im_a2 0 -2269243.176659122
Gr5_re_4_2 0 s4 x5_re_a2 0 197543.13755143626
Gr5_im_4_2 0 s4 x5_im_a2 0 602044.1951377324
Gr6_re_4_2 0 s4 x6_re_a2 0 1926391.7055995206
Gr6_im_4_2 0 s4 x6_im_a2 0 -390797.4577683336
Gr7_re_4_2 0 s4 x7_re_a2 0 -4336815.345164855
Gr7_im_4_2 0 s4 x7_im_a2 0 -3757590.07496044
Gr8_re_4_2 0 s4 x8_re_a2 0 1639453.1255964984
Gr8_im_4_2 0 s4 x8_im_a2 0 -1258527.6515367944
Gd4_3 0 s4 p3 0 -8.137813717079742e-05
Fd4_3 0 s4 V3 -0.006103360287809808
Gr1_4_3 0 s4 x1_a3 0 34004078.84074752
Gr2_re_4_3 0 s4 x2_re_a3 0 -1669241.9633021145
Gr2_im_4_3 0 s4 x2_im_a3 0 2908648.1843621084
Gr3_re_4_3 0 s4 x3_re_a3 0 1052735.7532416526
Gr3_im_4_3 0 s4 x3_im_a3 0 3973304.342635745
Gr4_re_4_3 0 s4 x4_re_a3 0 988655.6591987842
Gr4_im_4_3 0 s4 x4_im_a3 0 3749615.4743108535
Gr5_re_4_3 0 s4 x5_re_a3 0 2300900.9275974315
Gr5_im_4_3 0 s4 x5_im_a3 0 210848.05407887333
Gr6_re_4_3 0 s4 x6_re_a3 0 1701788.6808309339
Gr6_im_4_3 0 s4 x6_im_a3 0 -329109.38070158067
Gr7_re_4_3 0 s4 x7_re_a3 0 -792407.0538167835
Gr7_im_4_3 0 s4 x7_im_a3 0 509513.07447281195
Gr8_re_4_3 0 s4 x8_re_a3 0 207758.04911904276
Gr8_im_4_3 0 s4 x8_im_a3 0 248643.4421455323
Gd4_4 0 s4 p4 0 -0.002926048575862345
Fd4_4 0 s4 V4 -0.21945364318967592
Gr1_4_4 0 s4 x1_a4 0 212690156.06806976
Gr2_re_4_4 0 s4 x2_re_a4 0 54858134.83297894
Gr2_im_4_4 0 s4 x2_im_a4 0 143718640.59428814
Gr3_re_4_4 0 s4 x3_re_a4 0 315226700.68155617
Gr3_im_4_4 0 s4 x3_im_a4 0 36602856.982254826
Gr4_re_4_4 0 s4 x4_re_a4 0 -159450712.55892763
Gr4_im_4_4 0 s4 x4_im_a4 0 -270280280.2647975
Gr5_re_4_4 0 s4 x5_re_a4 0 -17047571.909631655
Gr5_im_4_4 0 s4 x5_im_a4 0 -109305454.49454723
Gr6_re_4_4 0 s4 x6_re_a4 0 116362166.92255451
Gr6_im_4_4 0 s4 x6_im_a4 0 -5251435.262428296
Gr7_re_4_4 0 s4 x7_re_a4 0 -47623219.56010995
Gr7_im_4_4 0 s4 x7_im_a4 0 229802532.8036742
Gr8_re_4_4 0 s4 x8_re_a4 0 -36480062.37269295
Gr8_im_4_4 0 s4 x8_im_a4 0 44692494.03083991
*
* State networks driven by port 4
Cx1_a4 x1_a4 0 1.0
Gx1_a4 0 x1_a4 p4 0 0.05773502691896257
Fx1_a4 0 x1_a4 V4 4.330127018922194
Rp1_a4 0 x1_a4 9.46465545684329e-11
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.11547005383792514
Fx2_re_a4 0 x2_re_a4 V4 8.660254037844387
Rp2_re_re_a4 0 x2_re_a4 8.848850411866024e-10
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 17000973704.580889
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -17000973704.580889
Rp2_im_im_a4 0 x2_im_a4 8.848850411866024e-10
Cx3_re_a4 x3_re_a4 0 1.0
Gx3_re_a4 0 x3_re_a4 p4 0 0.11547005383792514
Fx3_re_a4 0 x3_re_a4 V4 8.660254037844387
Rp3_re_re_a4 0 x3_re_a4 1.0334376975442945e-09
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 14603634762.750225
Cx3_im_a4 x3_im_a4 0 1.0
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -14603634762.750225
Rp3_im_im_a4 0 x3_im_a4 1.0334376975442945e-09
Cx4_re_a4 x4_re_a4 0 1.0
Gx4_re_a4 0 x4_re_a4 p4 0 0.11547005383792514
Fx4_re_a4 0 x4_re_a4 V4 8.660254037844387
Rp4_re_re_a4 0 x4_re_a4 7.910648080983229e-10
Gp4_re_im_a4 0 x4_re_a4 x4_im_a4 0 11945203492.30834
Cx4_im_a4 x4_im_a4 0 1.0
Gp4_im_re_a4 0 x4_im_a4 x4_re_a4 0 -11945203492.30834
Rp4_im_im_a4 0 x4_im_a4 7.910648080983229e-10
Cx5_re_a4 x5_re_a4 0 1.0
Gx5_re_a4 0 x5_re_a4 p4 0 0.11547005383792514
Fx5_re_a4 0 x5_re_a4 V4 8.660254037844387
Rp5_re_re_a4 0 x5_re_a4 1.1891447076874123e-09
Gp5_re_im_a4 0 x5_re_a4 x5_im_a4 0 10200506965.6328
Cx5_im_a4 x5_im_a4 0 1.0
Gp5_im_re_a4 0 x5_im_a4 x5_re_a4 0 -10200506965.6328
Rp5_im_im_a4 0 x5_im_a4 1.1891447076874123e-09
Cx6_re_a4 x6_re_a4 0 1.0
Gx6_re_a4 0 x6_re_a4 p4 0 0.11547005383792514
Fx6_re_a4 0 x6_re_a4 V4 8.660254037844387
Rp6_re_re_a4 0 x6_re_a4 9.421536393962632e-10
Gp6_re_im_a4 0 x6_re_a4 x6_im_a4 0 8120952365.50076
Cx6_im_a4 x6_im_a4 0 1.0
Gp6_im_re_a4 0 x6_im_a4 x6_re_a4 0 -8120952365.50076
Rp6_im_im_a4 0 x6_im_a4 9.421536393962632e-10
Cx7_re_a4 x7_re_a4 0 1.0
Gx7_re_a4 0 x7_re_a4 p4 0 0.11547005383792514
Fx7_re_a4 0 x7_re_a4 V4 8.660254037844387
Rp7_re_re_a4 0 x7_re_a4 9.556484372218097e-10
Gp7_re_im_a4 0 x7_re_a4 x7_im_a4 0 4953118963.950997
Cx7_im_a4 x7_im_a4 0 1.0
Gp7_im_re_a4 0 x7_im_a4 x7_re_a4 0 -4953118963.950997
Rp7_im_im_a4 0 x7_im_a4 9.556484372218097e-10
Cx8_re_a4 x8_re_a4 0 1.0
Gx8_re_a4 0 x8_re_a4 p4 0 0.11547005383792514
Fx8_re_a4 0 x8_re_a4 V4 8.660254037844387
Rp8_re_re_a4 0 x8_re_a4 1.646744604919737e-09
Gp8_re_im_a4 0 x8_re_a4 x8_im_a4 0 6072501587.75218
Cx8_im_a4 x8_im_a4 0 1.0
Gp8_im_re_a4 0 x8_im_a4 x8_re_a4 0 -6072501587.75218
Rp8_im_im_a4 0 x8_im_a4 1.646744604919737e-09
.ENDS s_equivalent
